US04479955
A solution of 2.36 g of ethyl 4-chloro-1,6-naphthyridine-3-carboxylate and 1.53 g of 4-hydrazinopyridine hydrochloride in 37 ml of methanol is stirred for 19 hours at room temperature, then refluxed for 4 hours. The reaction mixture is then cooled in an ice bath, and solid is collected by filtration, washed successively with methanol and ether to yield ethyl 4-[2-(4-pyridyl)hydrazino]-1,6-naphthyridine-3-carboxylate hydrochloride.

reactant | ethyl 4-chloro-1,6-naphthyridine-3-carboxylate | 2.36 g | ClC1=C(C=NC2=CC=NC=C12)C(=O)OCC | C11H9ClN2O2
reactant | 4-hydrazinopyridine hydrochloride | 1.53 g | Cl.N(N)C1=CC=NC=C1
solvent | methanol | 37 ml | CO | CH4O
product | ethyl 4-[2-(4-pyridyl)hydrazino]-1,6-naphthyridine-3-carboxylate hydrochloride | Cl.N1=CC=C(C=C1)NNC1=C(C=NC2=CC=NC=C12)C(=O)OCC | InChI=1S/C16H15N5O2.ClH/c1-2-23-16(22)13-10-19-14-5-8-18-9-12(14)15(13)21-20-11-3-6-17-7-4-11;/h3-10H,2H2,1H3,(H,17,20)(H,19,21);1H
